US08080568B1
To a stirred solution of 1-(bromomethyl)-2-fluoro-3-nitrobenzene (2.00 g, 8.54 mmol) and pyrrolidine (0.91 g, 12.82 mmol) in CH2Cl2 (15 mL) was added triethylamine (1.72 g, 17.08 mmol) dropwise at 0° C. The mixture was stirred at room temperature overnight and then evaporated to dryness under reduced pressure. The residue was diluted with water (15 mL) and extracted with EtOAc (2×30 mL). The EtOAc solution was washed with brine (20 mL), dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give 1-(2-fluoro-3-nitrobenzyl)pyrrolidine (1.20 g, 63%) as a viscous oil. 1H NMR (400 MHz, CD3OD): δ 8.02-7.97 (m, 1H), 7.81-7.76 (m, 1H), 7.36 (td, 1H, J=8.0, 1.2 Hz), 3.81 (d, 1H, J=2.0 Hz), 2.62-2.58 (m, 4H), 1.84-1.80 (m, 4H).

reactant | 1-(bromomethyl)-2-fluoro-3-nitrobenzene | 8.54 mmol, 2.00 g | BrCC1=C(C(=CC=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | pyrrolidine | 12.82 mmol, 0.91 g | N1CCCC1 | C4H9N
reactant | triethylamine | 17.08 mmol, 1.72 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-fluoro-3-nitrobenzyl)pyrrolidine | 1.20 g, 63% | FC1=C(CN2CCCC2)C=CC=C1[N+](=O)[O-] | C11H13FN2O2
